US09260416B2
Step 2: 2-(2-Oxo-propylsulfanyl)-isonicotinic acid methyl ester
2-Triisopropylsilanylsulfanyl-isonicotinic acid methyl ester (1.5 g, 4.6 mmol) was dissolved in THF (50 mL) and tetrabutylammonium fluoride (1 M in THF, 6.9 mL, 6.9 mmol) was added. After 15 minutes TLC indicated complete cleavage of the protecting group and chloroacetone (0.440 mL, 5.52 mmol) and Hünig's base (2.8 mL, 16.1 mmol) were added. After 1 hour additional portions of chloroacetone (1.2 eq.) and Hünig's base (3.5 eq.) were added. After stirring at room temperature for 2 hours the reaction was diluted with EtOAc and washed with H2O/brine with back-extraction. The combined organic portions were dried over MgSO4 and concentrated then purified on silica gel (0-100% EtOAc in hexanes) to yield the title compound.

reactant | 2-Triisopropylsilanylsulfanyl-isonicotinic acid methyl ester | 4.6 mmol, 1.5 g | COC(C1=CC(=NC=C1)S[Si](C(C)C)(C(C)C)C(C)C)=O | C16H27NO2SSi
reactant | tetrabutylammonium fluoride | 6.9 mmol, 1 M, 6.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroacetone | 5.52 mmol, 0.440 mL | ClCC(C)=O | C3H5ClO
reactant | Hünig's base | 16.1 mmol, 2.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetone | 1.2 eq. | ClCC(C)=O | C3H5ClO
reactant | Hünig's base | 3.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-Oxo-propylsulfanyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SCC(C)=O)=O | C10H11NO3S
